US08664309B2
Such a diimonium compound can be synthesized, for example, as follows. That is, an Ullmann reaction product of p-phenylenediamine and 1-chloro-4-nitrobenzene, is reduced to obtain N,N,N′,N′-tetrakis(p-aminophenyl)-p-phenylenediamine which is then dissolved in N,N-dimethylformamide, and an alkyl bromide is added thereto, followed by a reaction, for example, at 130° C. for 10 hours.

reactant | p-phenylenediamine | C1=CC(=CC=C1N)N | C6H8N2
reactant | 1-chloro-4-nitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
product | N,N,N′,N′-tetrakis(p-aminophenyl)-p-phenylenediamine | NC1=CC=C(C=C1)N(C1=CC=C(C=C1)N(C1=CC=C(C=C1)N)C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C30H28N6
